US06436915B1
Synthesis of 5-Amino-4-[(3-fluorophenyl)hydrazono]-2,4-dihydropyrazole-3-one
This compound was prepared using 2-[(3-fluorophenyl)hydrazono]malononitrile (145 mg, 0.5 mmole), which was derived from 3-fluoroaniline (111 mg, 1 mmole)) and cyclohexyl cyanoacetate (217 mg, 1.3 mmole) as described in Example 8, and hydrazine hydrate (25 mg, 0.5 mmole) in ethanol. Solids had not formed after heating the reaction at 80° C. for 40 minutes, however, analysis of the reaction solution by TLC indicated that no starting material remained. The solution was allowed to cool to room temperature and concentrated. The product was obtained after filtration as a yellow solid (73 mg). 1H NMR (ppm, DMSO-d6): 5.95 (br., s, 2H), 6.90 (m, 1H), 7.20-7.65 (m, 3H), 10.56 (br., s, 1H) 12.77 (br., s, 1H).

reactant | 2-[(3-fluorophenyl)hydrazono]malononitrile | 0.5 mmole, 145 mg | FC=1C=C(C=CC1)NN=C(C#N)C#N | C9H5FN4
reactant | 3-fluoroaniline | 1 mmole, 111 mg | FC=1C=C(N)C=CC1 | C6H6FN
reactant | cyclohexyl cyanoacetate | 1.3 mmole, 217 mg | C(#N)CC(=O)OC1CCCCC1 | C9H13NO2
reactant | hydrazine hydrate | 0.5 mmole, 25 mg | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 5-Amino-4-[(3-fluorophenyl)hydrazono]-2,4-dihydropyrazole-3-one | NC=1C(C(NN1)=O)=NNC1=CC(=CC=C1)F | C9H8FN5O
